US06699866B2
A mixture of carbon disulfide (0.996 mL, 16.57 mmol) in water (5 mL) was cooled to 0° C. Then 2-(2-aminoethyl)-1-methylpyrrolidine (2.4 mL, 16.57 mmol) was added over 45 minutes. The resulting mixture was maintained at 0° C. for an additional 30 minutes and then the cooling was discontinued. Next, ethyl chloroformate (1.58 mL, 16.57 mmol) was added over a 1 h period. The resulting mixture was maintained at room temperature for an additional 30 minutes and then made basic with saturated sodium hydrogen carbonate in water. The mixture was extracted with diethyl ether (2×50 mL). The extracts were combined, washed with brine (15 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to give a pale yellow oil. The oil was purified by vacuum distillation to give 1.22 g of 2-(2-isothiocyanatoethyl)-1-methylpyrrolidine.

reactant | carbon disulfide | 16.57 mmol, 0.996 mL | C(=S)=S | CS2
reactant | 2-(2-aminoethyl)-1-methylpyrrolidine | 16.57 mmol, 2.4 mL | NCCC1N(CCC1)C | C7H16N2
reactant | ethyl chloroformate | 16.57 mmol, 1.58 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 5 mL | O | H2O
product | 2-(2-isothiocyanatoethyl)-1-methylpyrrolidine | 1.22 g | N(=C=S)CCC1N(CCC1)C | C8H14N2S
